US06562811B1
To a cold (−78° C.) solution of 3-(methoxycarbonyl)cyclohexanecarboxylic acid (1.25 g, 6.71 mmol) in THF (20 mL) was added BH3.Me2S (0.7 mL, 7.38 mmol). The resulting mixture was stirred at −78° C. to room temperature overnight. The reaction mixture was quenched with a saturated aqueous NH4Cl solution and extracted with ethyl acetate. The organic phase was washed with brine, dried over Na2SO4, and evaporated. The residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=2/1) to give methyl 3-(hydroxymethyl)cyclo-hexanecarboxylate as a colorless oil (845 mg, yield; 73%). To a solution of methyl 3-(hydroxymethyl)cyclohexanecarboxylate (840 mg, 4.88 mmol) in Et3N (4.4 mL, 32 mmol) and DMSO (10 mL) was added sulfur trioxide-pyridine complex (2.56 g, 16.1 mmol). The mixture was stirred at room temperature for 1 hr. The reaction mixture was partitioned between ethyl acetate and water. The organic phase was washed with brine, dried over Na2SO4, filtered and evaporated. The residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=2/1) to give methyl 3-formylcyclohexanecarboxylate as a pale yellow oil (795 mg, yield; 96%).

reactant | methyl 3-(hydroxymethyl)cyclohexanecarboxylate | 4.88 mmol, 840 mg | OCC1CC(CCC1)C(=O)OC | C9H16O3
reactant | Et3N | 32 mmol, 4.4 mL | CCN(CC)CC | C6H15N
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | methyl 3-formylcyclohexanecarboxylate | 795 mg, yield; 96% | C(=O)C1CC(CCC1)C(=O)OC | C9H14O3
